US09422281B2
cyclobutyl (3S)-4-acetyl-7-[1-(1,1-dioxo-1λ6-thian-3-yl)-1H-pyrazol-4-yl]-3-methyl-1,2,3,4-tetrahydroquinoxaline-1-carboxylate (I-158)
A 100-mL round-bottom flask was charged with cyclobutyl (35)-4-acetyl-3-methyl-7-(1H-pyrazol-4-yl)-1,2,3,4-tetrahydroquinoxaline-1-carboxylate (1.67 g, 4.71 mmol), N,N-dimethylformamide (10 mL), 4-bromo-1λ6-thiane-1,1-dione (1.0 g, 4.7 mmol), and cesium carbonate (3.08 g, 9.45 mmol). The resulting mixture was stirred overnight at 100° C. After cooling to room temperature, the resulting solution was diluted with water (20 mL) and extracted with ethyl acetate (2×30 mL). The combined organic layers were washed with brine, dried over anhydrous sodium sulfate, filtered and concentrated. The residue was purified via column chromatography on silica gel (eluting with 1:1, ethyl acetate/petroleum ether). The material was further purified by Prep-HPLC with the following conditions (Waters III): Column, Xbridge RP18 Sum, 19×150 mm; mobile phase, water (0.05% ammonium bicarbonate) and acetonitrile (50% acetonitrile up to 100% in 10 min); Detector, UV 220&254 nm. This afforded cyclobutyl (3S)-4-acetyl-7-[1-(1,1-dioxo-1λ6-thian-3-yl)-1H-pyrazol-4-yl]-3-methyl-1,2,3,4-tetrahydroquinoxaline-1-carboxylate (1.01 g, 44%) as a white solid. 1H NMR (300 MHz, CD3OD) δ ppm 1.09 (d, J=6.60 Hz, 3H), 1.62-1.74 (m, 1H), 1.75-1.92 (m, 1H), 2.03-2.35 (m, 9H), 2.36-2.45 (m, 2H), 3.06-3.18 (m, 2H), 3.38-3.56 (m, 2H), 3.67 (t, J=13.20 Hz, 1H), 4.07-4.18 (m, 1H), 4.75-4.83 (m, 1H), 4.97-5.07 (m, 2H), 7.37 (s, 2H), 7.88 (s, 1H), 8.03 (s, 1H), 8.11 (s, 1H). MS (ESI, pos. ion) m/z 487 [M+H]

reactant | cyclobutyl (35)-4-acetyl-3-methyl-7-(1H-pyrazol-4-yl)-1,2,3,4-tetrahydroquinoxaline-1-carboxylate | 4.71 mmol, 1.67 g | C(C)(=O)N1[C@H](CN(C2=CC(=CC=C12)C=1C=NNC1)C(=O)OC1CCC1)C | C19H22N4O3
reactant | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
reactant | 4-bromo-1λ6-thiane-1,1-dione | 4.7 mmol, 1.0 g | BrC1CCS(CC1)(=O)=O | C5H9BrO2S
reactant | cesium carbonate | 9.45 mmol, 3.08 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | water | 20 mL | O | H2O
product | cyclobutyl (3S)-4-acetyl-7-[1-(1,1-dioxo-1λ6-thian-3-yl)-1H-pyrazol-4-yl]-3-methyl-1,2,3,4-tetrahydroquinoxaline-1-carboxylate | C(C)(=O)N1[C@H](CN(C2=CC(=CC=C12)C=1C=NN(C1)C1CS(CCC1)(=O)=O)C(=O)OC1CCC1)C | C24H30N4O5S
